US06072085
Typical experimental procedure: A dry resealable Schlenk flask under argon was charged with (S,S-(EBTHI) TiF2 (9 mg, 0.025 mmol) and 1 mL of dry THF. The resulting yellow solution was heated to 60 C. and PhSiH3 (12 μL, 0.1 mmol), piperidine (9 μL, 0.1 mmol) and methanol (4 μL, 0.1 mmol) were added via syringe. The mixture was stirred at 60 C. for 15-20 min, resulting in a color change from yellow to green. At this point, THF (1 mL) and PMHS (1.65 mL, 27 mmol) were added via syringe. The sealed Schlenk flask was then removed from the oil bath, cooled to room temperature, and brought into an argon filled glovebox. N-Benzyl-1-indanimine (0.64 g, 2.7 mmol) was added, and the reaction mixture was heated to 65 C. and the color of the reaction mixture changed to brown. To this solution, isobutylamine (0.6 mL, 6 mmol) was added during a period of 2.5 h (0.25 mL/h flow rate) using a syringe pump. When the amine addition was finished, the color of the reaction mixture had changed from brown to green, and analysis by GC showed complete consumption of the starting material. The reaction mixture was cooled to room temperature, removed from the glovebox, diluted with Et2O (30 mL) and stirred with 1 M HCI (15 mL) for 0.5 h (caution: vigorous bubbling). The aqueous layer was separated, made basic with 3 M NaOH and extracted with ether. The combined ether layers were dried (MgSO4) and concentrated in vacuo to afford 611 mg of (+)-N-benzylindan-1-amine (95% yield, 92% ee). Note: The amine promoter could be added portionwise, by syringe, in the case of more reactive substrates or when using a higher catalyst loading. For reactions using b 1 mol % catalyst, amine addition was performed in a hood under argon in a septum-capped Schlenk flask.

reactant | PMHS | 27 mmol, 1.65 mL | C[SiH](C)O.C[Si](C)(C)C.C[Si](C)(C)O
reactant | N-Benzyl-1-indanimine | 2.7 mmol, 0.64 g | C(C1=CC=CC=C1)N=C1CCC2=CC=CC=C12 | C16H15N
reactant | isobutylamine | 6 mmol, 0.6 mL | C(C(C)C)N | C4H11N
catalyst | PhSiH3 | 0.1 mmol, 12 μL | C1(=CC=CC=C1)[SiH3] | C6H8Si
catalyst | piperidine | 0.1 mmol, 9 μL | N1CCCCC1 | C5H11N
catalyst | methanol | 0.1 mmol, 4 μL | CO | CH4O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | (+)-N-benzylindan-1-amine | 611 mg, 95% yield | C(C1=CC=CC=C1)NC1CCC2=CC=CC=C12 | C16H17N
